US07645771B2
To a solution of methyl 3-amino-2,2-dimethylpropanoate (200 mg, 1.53 mmol) and Et3N (0.64 mL, 4.59 mmol) in 2 mL CH2Cl2 was added isopropylsulfonyl chloride (0.34 mL, 3.05 mmol). The reaction was stirred for 24 h, quenched by the addition of saturated aqueous NaHCO3, extracted with CHCl3, and chromatographed (1:1 hex:EtOAc) to provide methyl 3-[(isopropylsulfonyl)amino]-2,2-dimethylpropanoate (77 mg, 21%) as a solid. 1H NMR (400 MHz, CDCl3), 4.78 (t, 1H, J=6.6 Hz), 3.68 (s, 3H), 3.20-3.11 (m, 3H), 1.36 (d, 6H, J=6.9 Hz), 1.23 (s, 6H). Methyl 3-[(isopropylsulfonyl)amino]-2,2-dimethylpropanoate was hydrolyzed using aqueous NaOH to provide 3-[(isopropylsulfonyl)amino]-2,2-dimethylpropanoic acid, which was used without further purification.

reactant | Methyl 3-[(isopropylsulfonyl)amino]-2,2-dimethylpropanoate | C(C)(C)S(=O)(=O)NCC(C(=O)OC)(C)C | C9H19NO4S
reactant | NaOH | [OH-].[Na+]
product | 3-[(isopropylsulfonyl)amino]-2,2-dimethylpropanoic acid | C(C)(C)S(=O)(=O)NCC(C(=O)O)(C)C | C8H17NO4S
